US04031093
A solution of triethyloxonium fluoroborate (99.1 g., 0.522 mole) in methylene chloride (225 ml.) was added to a stirred solution of 2-cyclopropylmethoxybenzamide (99.2 g., 0.518 mole) in methylene chloride (450 ml.). The mixture was stirred at 22° for 18 hours. The solution was concentrated to about one-fifth volume and then diluted with diethyl ether. The precipitated solid was recrystallized from methylene chloride - diethyl ether to give ethyl 2-cyclopropylmethoxybenzimidate fluoroborate (104.7 g., 65.7%), m.p. 120°-121°. To a stirred, cooled (ice-water) mixture of the fluoroborate (104.7 g.) in ethanol (100 ml.) was added 400 ml. of 6% ethanolic ammonia. The mixture was stirred for 18 hours at 20°. The mixture was concentrated and the residue partitioned between diethyl ether and 3N sodium hydroxide. The ether layer was washed with brine and dried over sodium sulfate. The dried solution was treated with hydrogen chloride. The precipitate was recrystallized from methylene chloride-diethyl ether to give 2-cyclopropylmethoxybenzamidine hydrochloride (71.5 g., 92.5% from fluoroborate), m.p. 166°-171°.

reactant | triethyloxonium fluoroborate | 0.522 mole, 99.1 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | 2-cyclopropylmethoxybenzamide | 0.518 mole, 99.2 g | C1(CC1)COC1=C(C(=O)N)C=CC=C1 | C11H13NO2
solvent | methylene chloride | 225 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-cyclopropylmethoxybenzimidate fluoroborate | 104.7 g, 65.7% | F[B-](F)(F)F.C1(CC1)COC1=C(C(OCC)=N)C=CC=C1 | InChI=1S/C13H17NO2.BF4/c1-2-15-13(14)11-5-3-4-6-12(11)16-9-10-7-8-10;2-1(3,4)5/h3-6,10,14H,2,7-9H2,1H3;/q;-1
